US05420115
2-Amino-9-(2-deoxy-2-fluoro-β-D-ribofuranosyl)-6-methylthio-9H-purine
2-Amino-6-methylthiopurine (Sigma Chemical Company; 0.6 g, 3.3 mmoles) and 1-(2-deoxy-2-fluoro-β-D-ribofuranosyl)uracil (0.3 g, 1.2 mmoles) which may be prepared according to J. F. Codington et al. (J. Org. Chem. 29:558, 1964) were suspended in 200 ml of 5 mM potassium phosphate buffer, pH 7.0, which contained 0.04% (w/v) potassium azide. Thymidine phosphorylase (4,000 I.U.) and purine nucleoside phosphorylase (6,500 I.U.) (T. A. Krenitsky et al., Biochemistry 20:3615, 1981 and U.S. Pat. No. 4,381,344) were added and the suspension stirred at 37° C. On day 14, the reaction was diluted to 400 ml with 5 mM potassium phosphate buffer, pH 7.0, which contained 0.04% (w/v) potassium azide and 8,000 I.U. thymidine phosphorylase and 6,500 I.U. purine nucleoside phosphorylase were added. On day 25, the pH of the reaction was adjusted to 6.9 with KOH. On day 39, the reaction was filtered. The filtrate was applied to a 2.5×13 cm column of anion exchange resin (Bio-Rad AG1X2-hydroxide form) and the product was eluted with methanol/water (3/7). After the solvent was removed under vacuum, the residue was suspended in water and lyophilized to obtain title compound that analyzed as a 0.5 hydrate.

reactant | 2-Amino-6-methylthiopurine | 3.3 mmoles, 0.6 g | NC1=NC(=C2NC=NC2=N1)SC | C6H7N5S
reactant | 1-(2-deoxy-2-fluoro-β-D-ribofuranosyl)uracil | 1.2 mmoles, 0.3 g | F[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C=C1 | C9H11FN2O5
reactant | potassium azide | [N-]=[N+]=[N-].[K+]
reactant | Thymidine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
reactant | KOH | [OH-].[K+]
solvent | potassium phosphate | 5 mM, 200 ml | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | potassium phosphate | 5 mM | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
product | 2-Amino-9-(2-deoxy-2-fluoro-β-D-ribofuranosyl)-6-methylthio-9H-purine | NC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@H](O)[C@H](O1)CO)F)SC | C11H14FN5O3S
